US07642296B2
Under argon gas, 3.0 g (15.5 mmol) of 2-hydroxy-1-(4-hydroxymethyl-phenyl)-2-methyl-propan-1-one and 1.5 g (19 mmol) of pyridine in 50 ml of tetrahydrofuran are introduced into a 100 ml reaction flask. The pale-yellow solution is cooled to 0° C., and 1.6 g (17 mmol) of methyl chloroformate diluted with 5 ml of tetrahydrofuran are added dropwise between 0 and 2° C. over 45 minutes. A whitish-yellow suspension is formed, which is further stirred overnight in an ice bath. After warming up to room temperature, the reaction mixture is poured into 50 ml of water and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and concentrated. The crude product is purified by means of flash chromatography on silica gel (eluant: mixed hexanes:ethyl acetate 2:1). 2.3 g of carbonic acid 4-(2-hydroxy-2-methyl-propionyl)-benzyl ester methyl ester are obtained as a pale-yellow liquid. The structure is confirmed using a 1H NMR spectrum.

reactant | 2-hydroxy-1-(4-hydroxymethyl-phenyl)-2-methyl-propan-1-one | 15.5 mmol, 3.0 g | OC(C(=O)C1=CC=C(C=C1)CO)(C)C | C11H14O3
reactant | pyridine | 19 mmol, 1.5 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 17 mmol, 1.6 g | ClC(=O)OC | C2H3ClO2
reactant | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | carbonic acid 4-(2-hydroxy-2-methyl-propionyl)-benzyl ester methyl ester | 2.3 g | COC(OCC1=CC=C(C=C1)C(C(C)(C)O)=O)=O | C13H16O5
